US07399759B2
6-Methyl-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of 5-methyl-2-mercaptobenzoic acid (1.60 g, 9.5 mmol), 2-cyanopyridine (1.10 g, 10.1 mmol) and pyridine (20.0 ml) was refluxed for 8 hrs as described in Example 9. After cooling, the precipitated crystals were collected by filtration and recrystallized from hexane-ethanol to give the titled compound (1.04 g, 43%).

reactant | 5-methyl-2-mercaptobenzoic acid | 9.5 mmol, 1.60 g | CC=1C=CC(=C(C(=O)O)C1)S | C8H8O2S
reactant | 2-cyanopyridine | 10.1 mmol, 1.10 g | C(#N)C1=NC=CC=C1 | C6H4N2
solvent | pyridine | 20.0 ml | N1=CC=CC=C1 | C5H5N
product | 6-Methyl-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one | 1.04 g, 43% | CC=1C=CC2=C(C(N=C(S2)C2=NC=CC=C2)=O)C1 | C14H10N2OS
